US05187156
A solution of Z-Gly-Thr-D-Trp(CHO)-Phe-NMeBzl (560 mg) in a mixed solvent of ethanol (30 ml) and acetic acid (10 ml) was hydrogenated over 10% palladium on carbon (350 mg) under atmospheric pressure for two hours. After filtration of the catalyst and evaporation, the residue was dissolved in water (50 ml) and lyophilized to give H-Gly-Thr-D-Trp(CHO)-Phe-NMeBzl.AcOH (230 mg).

reactant | Z-Gly-Thr-D-Trp(CHO)-Phe-NMeBzl | 560 mg | N(CC(=O)N[C@@H]([C@H](O)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C43H46N6O8
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 350 mg | [Pd] | Pd
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | H-Gly-Thr-D-Trp(CHO)-Phe-NMeBzl | NCC(=O)N[C@@H]([C@H](O)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1 | C35H40N6O6
